US09371298B2
Preparation of Imidazole-1-carboxylic acid (4-pyrrolidin-1-yl-butyl)-amide
In a flask under nitrogen, 4-Pyrrolidin-1-yl-butylamine (1.3 equiv, 10.1 g) was taken up in tetrahydrofuran (105 mL, 5 volumes). The mixture was cooled to 0° C. and 1,1′-carbonyldiimidazole (1.3 equiv, 11.6 g) was added. The mixture stirred at 0° C. for 20 minutes, then warmed to 20° C. over 10 minutes and held at 20° C. for 30 minutes.

reactant | 4-Pyrrolidin-1-yl-butylamine | 10.1 g, 1.3 equiv | N1(CCCC1)CCCCN | C8H18N2
reactant | 1,1′-carbonyldiimidazole | 11.6 g, 1.3 equiv | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 105 mL | O1CCCC1 | C4H8O
product | Imidazole-1-carboxylic acid (4-pyrrolidin-1-yl-butyl)-amide | N1(CCCC1)CCCCNC(=O)N1C=NC=C1 | C12H20N4O
